US04619787
A solution, cooled to 0°, of 17.1 g (0.1 mmol) of (S)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone and 15.1 g (0.1 mol of t-butyldimethylchlorosilane in 100 ml of dimethylformamide is treated while stirring with 10.6 g (0.105 mol) of triethylamine, whereby a precipitate results immediately. The mixture is stirred at 0° for 2 hours, then diluted with 200 ml of ether and the reaction mixture is washed five times with 80 ml of water each time. The aqueous phases are then extracted with 100 ml of ether. The organic phases are dried over sodium sulphate and evaporated, whereupon the residual oil is distilled. There is obtained (S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone of boiling point 84°-87° (0.5 Torr); [α]D20 =-22.7° (c=1, ethyl acetate).

reactant | (S)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone | 0.1 mmol, 17.1 g | CC1(OC[C@H](O1)[C@@H]1CC(N1)=O)C | C8H13NO3
reactant | t-butyldimethylchlorosilane | 0.1 mol | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | triethylamine | 0.105 mol, 10.6 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | 200 ml | CCOCC | C4H10O
product | (S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1[C@H]1OC(OC1)(C)C)=O | C14H27NO3Si
